US04082764
2-Amino-5,2'-dichlorobenzophenone is reacted with formic acid, whereby 5, 2'-dichloro-2-formylaminobenzophenone (pale yellow granules melting at 106° to 107° C) is obtained. The product is then reacted with hydrazine hydrate, whereby 3-amino-6-chloro-4-(2-chlorophenyl)-3,4-dihydro-4-hydroxyquinazoline (colorless granules melting at 198° C (effervescence)) is obtained. The product is reacted with chloroacetyl chloride, whereby a bis-(monochloroacetyl) derivative of 3-amino-6-chloro-4-(2-chlorophenyl)-3,4-dihydro-4-hydroxyquinazoline (colorless powdery crystals melting at 157° to 158° C) is obtained. Further, the product is treated with monochloroacetic acid in dry benzene under refluxing, whereby crystals of 2-(3-chloromethyl-s-triazol-4-yl)-5, 2'-dichlorobenzophenone are obtained. Recrystallization from chloroform-n-hexane gives colorless granules melting at 139° to 140° C. Overall yield: 34%.

reactant | 2-Amino-5,2'-dichlorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
reactant | formic acid | C(=O)O | CH2O2
product | 5, 2'-dichloro-2-formylaminobenzophenone | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)Cl)C1)NC=O | C14H9Cl2NO2
